US04079179
2-Thienylacetyl chloride (28 μl, 0.209 mMol) is added to an ice-cold, stirring mixture of 7-amino-6-methylthio-3-acetoxymethyl-ceph-3-em-4-carboxylic acid (66.4 mg., 0.209 mMol) and NaHCO3 (35 mg., 0.418 mMol) in H2O (1.5 ml.) and acetone (3.0 ml.). After stirring for 30 mins. in the cold, the mixture is evaporated under reduced pressure to remove acetone. The aqueous residue is diluted with more H2O (4.5 ml). and extracted with three portions of Et2O. The aqueous phase is acidified to pH 2.5 with 10% HCl and extracted with three portions of EtOAc. The EtOAc solution is dried over MgSO4, filtered, and evaporated in vacuo to a solid (72 mg.). This material is extracted with φH to remove 2-thienylacetic acid and the residue recrystallized from CH3CN-Et2O to provide 7-(2-thienylacetamido)-6-methylthio-3-acetoxymethyl-ceph-3-em-4-carboxylic acid (31 mg.) as an off-white solid.

reactant | 2-Thienylacetyl chloride | 0.209 mMol, 28 μl | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | 7-amino-6-methylthio-3-acetoxymethyl-ceph-3-em-4-carboxylic acid | 0.209 mMol, 66.4 mg | NC1[C@@]2(N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)SC | C11H14N2O5S2
reactant | NaHCO3 | 0.418 mMol, 35 mg | C(=O)(O)[O-].[Na+]
solvent | H2O | 1.5 ml | O | H2O
solvent | acetone | 3.0 ml | CC(=O)C | C3H6O
product | 7-(2-thienylacetamido)-6-methylthio-3-acetoxymethyl-ceph-3-em-4-carboxylic acid | 31 mg | S1C(=CC=C1)CC(=O)NC1[C@@]2(N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)SC | C17H18N2O6S3
